US08314100B2
1-[(2-Methoxy-6-methylquinoxalin-3-yl)aminocarbonyl]-4-(2-methoxyphenyl)piperazine (Compound 44)
Ethyl N-(2-methoxy-6-methylquinoxalin-3-yl)carbamate and 1-(2-methoxyphenyl)piperazine were reacted by the same way with the example 43 to obtain the titled compound (yield, 66%). 1H NMR (300 MHz, CDCl3): δ 2.42-2.49 (m, 3H), 3.10-3.16 (m, 4H), 3.80-3.89 (m, 6H), 4.08-4.17 (m, 4H), 6.88-7.11 (m, 5H), 7.26-7.32 (m, 1H), 7.48-7.64 (m, 2H).

reactant | Ethyl N-(2-methoxy-6-methylquinoxalin-3-yl)carbamate | COC1=NC2=CC=C(C=C2N=C1NC(OCC)=O)C | C13H15N3O3
reactant | 1-(2-methoxyphenyl)piperazine | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
product | 1-[(2-Methoxy-6-methylquinoxalin-3-yl)aminocarbonyl]-4-(2-methoxyphenyl)piperazine | 66% | COC1=NC2=CC=C(C=C2N=C1NC(=O)N1CCN(CC1)C1=C(C=CC=C1)OC)C | C22H25N5O3
